

***********************************************************
* CDL produced by pvsBuildNetlist on Dec  4 16:45:01 2025 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt NOT A Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 NOT schematic
  MNM0 Out A Vss Vss nfet_01v8 m=1 l=150n w=420n
  MPM0 Out A Vdd Vdd pfet_01v8 m=1 l=150n w=550n
.ends NOT


.subckt NAND A B Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 NAND schematic
  MNM0 Out A net1 Vss nfet_01v8 m=1 l=150n w=420n
  MNM1 net1 B Vss Vss nfet_01v8 m=1 l=150n w=420n
  MPM0 Out A Vdd Vdd pfet_01v8 m=1 l=150n w=550n
  MPM1 Out B Vdd Vdd pfet_01v8 m=1 l=150n w=550n
.ends NAND


.subckt AND A B Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 AND schematic
  XI0 NAND $PINS A=A B=B Out=net6 Vdd=Vdd Vss=Vss
  XI1 NOT $PINS A=net6 Out=Out Vdd=Vdd Vss=Vss
.ends AND


.subckt AND3 A B C Vdd Vout Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 AND3 schematic
  XI0 AND $PINS A=A B=B Out=net3 Vdd=Vdd Vss=Vss
  XI1 AND $PINS A=net3 B=C Out=Vout Vdd=Vdd Vss=Vss
.ends AND3


.subckt NOR A B Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 NOR schematic
  MNM0 Out A Vss Vss nfet_01v8 m=1 l=150n w=420n
  MNM1 Out B Vss Vss nfet_01v8 m=1 l=150n w=420n
  MPM0 net4 B Vdd Vdd pfet_01v8 m=1 l=150n w=550n
  MPM1 Out A net4 Vdd pfet_01v8 m=1 l=150n w=550n
.ends NOR


.subckt OR4 A B C D Out Vdd Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 OR4 schematic
  XI0 NOR $PINS A=A B=B Out=net3 Vdd=Vdd Vss=Vss
  XI1 NOR $PINS A=C B=D Out=net8 Vdd=Vdd Vss=Vss
  XI2 NOR $PINS A=net2 B=net1 Out=net13 Vdd=Vdd Vss=Vss
  XI3 NOT $PINS A=net3 Out=net1 Vdd=Vdd Vss=Vss
  XI4 NOT $PINS A=net8 Out=net2 Vdd=Vdd Vss=Vss
  XI5 NOT $PINS A=net13 Out=Out Vdd=Vdd Vss=Vss
.ends OR4


.subckt 4_1_MUX_Schematic A B C D S0 S1 Vdd Vout Vss
*PVSCELL netlisted from Group2_VLSI_EE5900 4_1_MUX_Schematic schematic
  XI0 AND3 $PINS A=A B=net2 C=net1 Vdd=Vdd Vout=net25 Vss=Vss
  XI1 AND3 $PINS A=B B=net2 C=S0 Vdd=Vdd Vout=net10 Vss=Vss
  XI2 AND3 $PINS A=C B=S1 C=net1 Vdd=Vdd Vout=net16 Vss=Vss
  XI3 AND3 $PINS A=D B=S1 C=S0 Vdd=Vdd Vout=net22 Vss=Vss
  XI5 NOT $PINS A=S1 Out=net2 Vdd=Vdd Vss=Vss
  XI6 NOT $PINS A=S0 Out=net1 Vdd=Vdd Vss=Vss
  XI4 OR4 $PINS A=net25 B=net10 C=net16 D=net22 Out=Vout Vdd=Vdd Vss=Vss
.ends 4_1_MUX_Schematic


.subckt Barrel_Shifter S0 S1 Vdd Vss W0 W1 W2 W3 Y0 Y1 Y2 Y3
*PVSCELL netlisted from Group2_VLSI_EE5900 Barrel_Shifter schematic
  XI0 4_1_MUX_Schematic $PINS A=W3 B=W0 C=W1 D=W2 S0=S0 S1=S1 Vdd=Vdd Vout=Y3
+  Vss=Vss
  XI1 4_1_MUX_Schematic $PINS A=W2 B=W3 C=W0 D=W1 S0=S0 S1=S1 Vdd=Vdd Vout=Y2
+  Vss=Vss
  XI2 4_1_MUX_Schematic $PINS A=W1 B=W2 C=W3 D=W0 S0=S0 S1=S1 Vdd=Vdd Vout=Y1
+  Vss=Vss
  XI3 4_1_MUX_Schematic $PINS A=W0 B=W1 C=W2 D=W3 S0=S0 S1=S1 Vdd=Vdd Vout=Y0
+  Vss=Vss
.ends Barrel_Shifter


***********************************************************
*             Completed at Dec  4 16:45:02 2025           *
***********************************************************
